US09029420B2
The Preparation of 7-methoxy-1-naphthaleneacetonitrile
30 g 7-methoxy-1-naphthaleneacetamide, 120 ml THF and 35.7 g triethylamine were added into reaction flask. The mixture was stirred and cooled with external ice saline bath. Trifluoroacetic anhydride was slowly added in drops. After completion of addition, it was stirred for further 15 min. Then, the ice bath was removed and stirring was carried out for 2 h at room temperature. After completion of the reaction, the reaction solution was evaporated. Subsequently, 200 ml water was added and the solution was filtered and dried after stirring for 0.5 hours, to obtain 28 g crude product. Recrystallization was carried out using 280 ml isopropyl ether and 1.4 g activated carbon to obtain 22 g refined product with the mp of 82-84° C. The yield is 80%.

reactant | 7-methoxy-1-naphthaleneacetamide | 30 g | COC1=CC=C2C=CC=C(C2=C1)CC(=O)N | C13H13NO2
reactant | THF | 120 ml | C1CCOC1 | C4H8O
reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethylamine | 35.7 g | C(C)N(CC)CC | C6H15N
product | 7-methoxy-1-naphthaleneacetonitrile | 28 g, yield is 80% | COC1=CC=C2C=CC=C(C2=C1)CC#N | C13H11NO
